US05364844
(2S, 4S, 5S)-5-(t-Butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-[2(S)-methylbutyl]-hexanamide
A solution of 500 mg (1.35 mmoles) of (3S, 5S)-5-[(1S)-1-(N-t-butoxycarbonylamino)-2-cyclohexylethyl]-3-(1-hydroxy-1-methylethyl)dihydrofuran-2(3H)-one (prepared as described in Preparation 6) in 1.00 g (11.5 mmoles) of 2(S)-methylbutylamine was stirred at 100° C. for 4 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the residue was purified by medium pressure silica gel column chromatography (using a 20:1 by volume mixture of methylene chloride and methanol as eluent), to give 570 mg (yield 92%) of the title compound as white crystals, melting at 64°-67° C.

reactant | (3S, 5S)-5-[(1S)-1-(N-t-butoxycarbonylamino)-2-cyclohexylethyl]-3-(1-hydroxy-1-methylethyl)dihydrofuran-2(3H)-one | 1.35 mmoles, 500 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C(C)(C)O | C20H35NO5
reactant | 2(S)-methylbutylamine | 11.5 mmoles, 1.00 g | C[C@H](CN)CC | C5H13N
product | (2S, 4S, 5S)-5-(t-Butoxycarbonylamino)-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-[2(S)-methylbutyl]-hexanamide | 570 mg, yield 92% | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NC[C@H](CC)C)C(C)(C)O)O)CC1CCCCC1 | C25H48N2O5
